US06268391B1
4-Bromo-2-nitrophenylpyruvic acid
Diethyl oxalate (29.2 g, 0.2 mol) and 4-bromo-2-nitrotoluene (21.6 g, 0.1 mol, Lancaster) were poured into a cooled sodium ethoxide solution, prepared from sodium (4.6 g, 0.2 mol) and absolute ethanol (90 mL). The mixture was stirred overnight at room temperature and then refluxed for 10 minutes at the end of the reaction. Water (30 mL) was added and the reaction refluxed for 2.5 h. The reaction mixture was cooled and concentrated to remove excess ethanol. The precipitate was collected by filtration, washed with ether and dried. The crude sodium salt was dissolved in water and acidified with conc. HCl. The solid precipitated and was collected by filtration. The crude product was recrystallized from hexane and ethyl acetate to give 12.5 g (43%) as a feathery putty-colored solid; 1H-NMR (CDCl3): δ8.40 (d, 1H, J=1.9 Hz). 7,84 (dd, 1H, J=8.0, 2.0 Hz), 7.30 (d, 1H, J=2 Hz) 4.65 (s, 2H).

reactant | Diethyl oxalate | 0.2 mol, 29.2 g | C(C(=O)OCC)(=O)OCC | C6H10O4
reactant | 4-bromo-2-nitrotoluene | 0.1 mol, 21.6 g | BrC1=CC(=C(C=C1)C)[N+](=O)[O-] | C7H6BrNO2
reactant | sodium ethoxide | [O-]CC.[Na+]
reactant | sodium | 0.2 mol, 4.6 g | [Na] | Na
solvent | Water | 30 mL | O | H2O
solvent | ethanol | 90 mL | C(C)O | C2H6O
product | 4-Bromo-2-nitrophenylpyruvic acid | BrC1=CC(=C(C=C1)CC(C(=O)O)=O)[N+](=O)[O-] | C9H6BrNO5
